US04873224
4-(Thiazol-2-yl)semicarbazide
A solution of 2-(4-nitrophenoxycarbonyl)aminothiazole, 3.5 g (13 mMole) and 85% hydrazine hydrate, 4.0 ml (69 mMole) in 40 ml of methanol was stirred under nitrogen at 22° C. for 10 days. The mixture was cooled in ice. The insolubles were filtered, washed with cold methanol, dried and recrystallized from ethanol furnishing 780 mg of (thiazol-2-yl)semicarbazide, m.p. 166°-167° C., which was characterized by nuclear magnetic resonance, mass spectra, infrared spectra and elemental analyses.

reactant | 2-(4-nitrophenoxycarbonyl)aminothiazole | [N+](=O)([O-])C1=CC=C(OC(=O)NC=2SC=CN2)C=C1 | C10H7N3O4S
reactant | hydrazine hydrate | O.NN
solvent | methanol | 40 ml | CO | CH4O
product | 4-(Thiazol-2-yl)semicarbazide | S1C(=NC=C1)NC(NN)=O | C4H6N4OS
